US08859768B2
To a solution of N-{4-[4-iodo-5-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (0.18 mg, 0.33 mmol) in 1,4-dioxane (3 mL) was added water (0.4 mL), (2-chlorophenyl)boronic acid (0.067 g, 0.43 mmol), tetrakis (triphenylphosphine) palladium(0) (0.038 g, 0.033 mmol) and cesium carbonate (0.32 mg, 0.99 mmol). The reaction mixture was allowed to stir and was subjected to microwave irradiation at 150° C. for 20 min. The mixture was diluted with water and extracted with EtOAc. The organic solutions were combined, dried over MgSO4, filtered and concentrated. The residue was dissolved in DCM (5 mL) and to this solution was added TFA (2 mL). The reaction mixture was allowed to stir at rt overnight and was then concentrated. The residue was purified by column chromatography to give N-{4-[4-(2-chlorophenyl)-5-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (Compound I-39) (0.095 g, 73%). LCMS (FA): m/z=395.6 (M+H).

reactant | N-{4-[4-iodo-5-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 0.33 mmol, 0.18 mg | IC=1N=C(OC1C1=NN(C=N1)COCC[Si](C)(C)C)C1=CC(=NC=C1C)NC(C)=O | C19H25IN6O3Si
reactant | (2-chlorophenyl)boronic acid | 0.43 mmol, 0.067 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 0.99 mmol, 0.32 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium(0) | 0.033 mmol, 0.038 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 0.4 mL | O | H2O
product | N-{4-[4-(2-chlorophenyl)-5-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 0.095 g, 73% | ClC1=C(C=CC=C1)C=1N=C(OC1C1=NN=CN1)C1=CC(=NC=C1C)NC(C)=O | C19H15ClN6O2
